* NPN BJT Output Characteristics (Ic vs Vce, stepped Ib)
* Classical IC–VCE family-of-curves DC sweep: the collector-emitter
* voltage is swept while the base current is stepped through a few
* representative levels. An independent current source Ib sets the
* base drive so we exercise I (current source) in addition to the V
* and Q primitives.
* Devices exercised: V, I (current source), Q (NPN bundled 2N3904).

.title NPN BJT Output Characteristics
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Base bias current (stepped by nested .dc) ---
Ib 0 base DC 10u

* --- Collector supply (primary sweep) ---
Vce col 0 DC 0

* --- Emitter tied to ground so Vce = V(col) - 0 ---
Q1 col base 0 2N3904

* --- Analysis: primary sweep Vce, nested step Ib ---
.dc Vce 0 10 0.05 Ib 10u 50u 10u

* A nested DC sweep contains one VCE segment per base-current value.
* Inspect the separate sweep segments rather than publishing a single
* ambiguous .measure value that would silently describe only one Ib step.

.end
